US06063948
In a Schlenk vessel, to a solution of cyclohexyldiisopropylcyclopentadiene (9.28 g; 40.0 nmmol) in dry THF (150 mL) at room temperature, a solution of n-butyllithium in hexane (25.0 mL; 1.6 mol/L; 40.0 mmol) was added dropwise. Then, in another Schlenk vessel, a solution of n-butyllithium in hexane (25.0 mL; 1.6 mol/L; 40.0 mmol) was added dropwise to a cold (-78° C.) solution of dimethylaminoethanol (3.56 g; 40.0 mmol) in THF (100 mL). After an hour and a half's stirring at room temperature, the mixture was again cooled to -78° C. and the solid tosyl chloride (8.10 g; 40.0 mmol) was added slowly. The mixture was brought to 0° C., being stirred for 5 minutes in the process, again cooled to -78° C., and the mixture from the first Schlenk vessel was then added at once. After 16 hours' stirring at room temperature the conversion was 100%. After column chromatography 11.1 g of cyclohexyl-(dimethylaminoethyl)-di-(2-propyl)cyclopentadiene were obtained.

reactant | cyclohexyldiisopropylcyclopentadiene | 9.28 g | C1(CCCCC1)C1=CC=CC1(C(C)C)C(C)C | C17H28
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 40.0 mmol, 1.6 mol/L, 25.0 mL | CCCCCC | C6H14
reactant | hexane | 40.0 mmol, 1.6 mol/L, 25.0 mL | CCCCCC | C6H14
reactant | dimethylaminoethanol | 40.0 mmol, 3.56 g | CN(C)CCO | C4H11NO
reactant | tosyl chloride | 40.0 mmol, 8.10 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | cyclohexyl-(dimethylaminoethyl)-di-(2-propyl)cyclopentadiene | 11.1 g | C1(CCCCC1)C1=C(C(C=C1)(C(C)C)C(C)C)CCN(C)C | C21H37N
